### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/AffineSpace): affine space over an integral base is integral

### PR DESCRIPTION
**Pull request by justus-springer**
Prove that `AffineSpace` inherits the properties `IrreducibleSpace`, `IsReduced` and `IsIntegral` from its base.

Also clean up a few variables, that were used very scarcely. These were causing weird issues in these new instances, where they would be automatically included.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 1]
```diff
@@ -393,6 +390,30 @@ lemma isOpenMap_over : IsOpenMap (𝔸(n; S) ↘ S) := by
...
+  wlog hS : ∃ R, S = Spec R
+  · apply +allowSynthFailures @IsReduced.of_openCover _ (S.affineCover.pullback₁ (𝔸(n; S) ↘ S))
+    intro i
+    have hU : IsReduced (S.affineCover.X i) := isReduced_of_isOpenImmersion (S.affineCover.f i)
+    have hA : IsReduced 𝔸(n; S.affineCover.X i) := this _ ⟨_, rfl⟩
+    exact isReduced_of_isOpenImmersion ((isPullback_map _).isoPullback.inv)
+  obtain ⟨R, rfl⟩ := hS
+  refine @isReduced_of_isOpenImmersion _ _ (SpecIso n R).hom _ ?_
+  rw [affine_isReduced_iff] at h
+  infer_instance
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean]:
```suggestion
  rw [affine_isReduced_iff] at h
  exact isReduced_of_isOpenImmersion (SpecIso n R).hom
```

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 2]
```diff
@@ -393,6 +390,30 @@ lemma isOpenMap_over : IsOpenMap (𝔸(n; S) ↘ S) := by
...
+
+instance [IrreducibleSpace S] : IrreducibleSpace 𝔸(n; S) :=
+  GeometricallyIrreducible.irreducibleSpace (𝔸(n; S) ↘ S) (isOpenMap_over S)
+
+instance [h : IsReduced S] : IsReduced 𝔸(n; S) := by
+  wlog hS : ∃ R, S = Spec R
+  · apply +allowSynthFailures @IsReduced.of_openCover _ (S.affineCover.pullback₁ (𝔸(n; S) ↘ S))
+    intro i
+    have hU : IsReduced (S.affineCover.X i) := isReduced_of_isOpenImmersion (S.affineCover.f i)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean]: Could you please make this a global instance (for any `OpenCover`)?

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 3]
```diff
@@ -393,6 +390,30 @@ lemma isOpenMap_over : IsOpenMap (𝔸(n; S) ↘ S) := by
...
+  apply ObjectProperty.prop_of_iso _
+    ((h.isoIsPullback _ _ (isPullback_map _)) ≪≫ (SpecIso n (.of K))).symm
+  infer_instance
+
+instance [IrreducibleSpace S] : IrreducibleSpace 𝔸(n; S) :=
+  GeometricallyIrreducible.irreducibleSpace (𝔸(n; S) ↘ S) (isOpenMap_over S)
+
+instance [h : IsReduced S] : IsReduced 𝔸(n; S) := by
+  wlog hS : ∃ R, S = Spec R
+  · apply +allowSynthFailures @IsReduced.of_openCover _ (S.affineCover.pullback₁ (𝔸(n; S) ↘ S))
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean]: Instead of the `@`, could you please add a lemma `IsReduced.iff_of_openCover` and `rw` with that instead?

File: Mathlib/AlgebraicGeometry/AffineSpace.lean [hunk 4]
```diff
@@ -393,6 +390,30 @@ lemma isOpenMap_over : IsOpenMap (𝔸(n; S) ↘ S) := by
     (SpecIso n R).inv, SpecIso_inv_over]
   exact MvPolynomial.isOpenMap_comap_C
 
+instance : GeometricallyIrreducible (𝔸(n; S) ↘ S) := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineSpace.lean:392]: Could you please also show `GeometricallyReducible`? (The proof should be the same). Unfortunately it won't help to show the `IsReduced` part.

Comment (justus-springer) [reply Mathlib/AlgebraicGeometry/AffineSpace.lean:392]: Added this, and also `GeometricallyIntegral`.

**Comment by chrisflav** [comment]
You will have to replace all of the `max u v`s with `u`s.

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
